US05532235
1,4,5,6-Tetrahydro-6-(4-aminobenzoyl)pyrazolo[3,4-d]pyrido[2,3-b]azepine
To a slurry of 0.170 g of 1,4,5,6-tetrahydro-6-(4-nitrobenzoyl)pyrazolo[3,4-d]pyrido[2,3-b]azepine in 8 ml of ethanol under argon is added 0.573 g of stannous chloride dihydrate (SnCl2.2H2O). The mixture is refluxed for 1 hour, diluted with ice-water and made basic with 10% NaHCO3 solution. The mixture is stirred 3.5 hours and extracted with chloroform (3 times). The extract is dried (MgSO4) and the solvent removed under vacuum. Chromatography on silica gel with ethyl acetate as eluent gives 0.10 g of off-white crystals.

reactant | 1,4,5,6-tetrahydro-6-(4-nitrobenzoyl)pyrazolo[3,4-d]pyrido[2,3-b]azepine | 0.170 g | [N+](=O)([O-])C1=CC=C(C(=O)N2C3=C(C4=C(CC2)C=NN4)C=CC=N3)C=C1 | C17H13N5O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | 1,4,5,6-Tetrahydro-6-(4-aminobenzoyl)pyrazolo[3,4-d]pyrido[2,3-b]azepine | 0.10 g | NC1=CC=C(C(=O)N2C3=C(C4=C(CC2)C=NN4)C=CC=N3)C=C1 | C17H15N5O
